US05492925
A solution of triethylamine (3.24 g, 32.1 mmol) in acetonitrile is added slowly to a solution of 2-[1-(5-bromo-3-thienyl)-2-nitroethyl]-4-(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one (13.30 g, 26.8 mmol) in acetonitrile. The reaction mixture is stirred at room temperature for several minutes and diluted with dilute hydrochloric acid. The organic layer is separated, dried over MgSO4 and concentrated in vacuo to obtain a black residue. Column chromatography of the residue using silica gel and a (9:1) hexane/ethyl acetate solution gives several solids. One of the solids is stirred in cold 1,2-dichloroethane, filtered and dried to give 3-(5-bromo-3-thienyl)-5-(p-chlorophenyl)-2-(trifluoromethyl) pyrrole as a light tan solid, mp 112°-115° C. Another solid is diluted with hexane and the mixture is refluxed, cooled to room temperature and filtered to obtain 3-(5-bromo-3-thienyl)-5-(p-chlorophenyl)-4-nitro-2-(trifluoromethyl)pyrrole as a yellow solid, mp 174°-176° C.

reactant | triethylamine | 32.1 mmol, 3.24 g | C(C)N(CC)CC | C6H15N
reactant | 2-[1-(5-bromo-3-thienyl)-2-nitroethyl]-4-(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one | 26.8 mmol, 13.30 g | BrC1=CC(=CS1)C(C[N+](=O)[O-])C1(OC(C(=N1)C1=CC=C(C=C1)Cl)=O)C(F)(F)F | C16H9BrClF3N2O4S
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetonitrile | C(C)#N | C2H3N
solvent | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-(5-bromo-3-thienyl)-5-(p-chlorophenyl)-2-(trifluoromethyl) pyrrole | BrC1=CC(=CS1)C1=C(NC(=C1)C1=CC=C(C=C1)Cl)C(F)(F)F | C15H8BrClF3NS
